US08604069B2
(A-58-2) 5-(2-Chloro-4-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valeric acid
Methyl 5-(2-chloro-4-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valerate (63.3 mg) and acetic acid (0.6 mL) were mixed. To the mixture was added 48 w/v % hydrobromic acid (0.3 mL) at 10° C. The mixture was stirred at RT, and further stirred at 50° C. To the reaction mixture were added sodium acetate (250 mg) and water at ice temperature. The mixture was extracted twice with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: methanol/chloroform/acetic acid=1/20/0.1) to give the title compound (56.7 mg).

reactant | Methyl 5-(2-chloro-4-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valerate | 63.3 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CCC(=O)OC)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)(C)C | C29H39ClN2O4
reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 0.3 mL | Br | BrH
reactant | sodium acetate | 250 mg | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 5-(2-Chloro-4-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valeric acid | 56.7 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CCC(=O)O)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)(C)C | C28H37ClN2O4
